US09382243B2
Step C. (2S,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-3-((triethylsilyl)oxy)tetrahydro-2H-pyran-2-carbaldehyde
To a stirred solution of ((2R,3 S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-3-((triethylsilyl)oxy)tetrahydro-2H-pyran-2-yl)methanol (56 mg, 0.080 mmol) in anhydrous DCM under nitrogen was added pyridine (13 μL, 12.7 mg, 0.161 mmol) and Dess-Martin periodinane (51 mg, 0.121 mmol). After stirring at room temperature for 2 hours, the mixture was directly loaded onto a Biotage™ 10 g silica gel cartridge and eluted with 0-20% EtOAc in 1:1 Hexane/DCM over 20 column volumes. The desired SEM regioisomeric product fractions were combined and concentrated under reduced pressure to provide the title compound as a clear oil. LC-MS: calculated for C36H48ClN3O5Si2 693.28, observed m/e: 694.25 (M+H)+ (Rt 3.23/4 min, minor isomer), 694.23 (M+H)+ (Rt 3.31/4 min, major isomer).

reactant | ((2R,3 S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-3-((triethylsilyl)oxy)tetrahydro-2H-pyran-2-yl)methanol | 0.080 mmol, 56 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]([C@H](OC2)CO)O[Si](CC)(CC)CC)Cl)C2=CC=CC=C2 | C36H50ClN3O5Si2
reactant | pyridine | 0.161 mmol, 13 μL, 12.7 mg | N1=CC=CC=C1 | C5H5N
reactant | Dess-Martin periodinane | 0.121 mmol, 51 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2S,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-3-((triethylsilyl)oxy)tetrahydro-2H-pyran-2-carbaldehyde | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]([C@H](OC2)C=O)O[Si](CC)(CC)CC)Cl)C2=CC=CC=C2 | C36H48ClN3O5Si2
